US08629169B2
STEP 2: Di-tert-butyl (1S,2R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-methylidene-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate
To a solution of di-tert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-(dimethylaminomethylene)-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate (620.4 g, 1.33 mol) in dry tetrahydrofuran (12 L), triethylamine (277.3 ml, 1.99 mol) is added at room temperature under nitrogen. The mixture is cooled to −47° C. and diisobutylaluminum hydride (1M in hexane, 2.06 L, 2.06 mol) is added dropwise over 2 hours. The resulting mixture is stirred at −47° C. After 1 hour 15 minutes, acetic acid (118 ml, 2.06 mol) is dropwise added at −47° C., warmed to room temperature, and then stirred overnight. Add 20% H3PO4 in water until pH=2. Separate the organic phase and extract the aqueous phase with ethyl acetate (2×1.7 L). The combined organic phases are washed successively with 10% aqueous HCl (1.5 L), water (1.5 L), and brine (1.5 L), dried over anhydrous sodium sulfate, filtered, and concentrated to yield a solid. The resulting solid is triturated with water (3.2 L), collected by filtration, and then dried to yield the title compound (558.2 g, yield 99%). HPLC-MS: 97.4%.

reactant | di-tert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-(dimethylaminomethylene)-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 1.33 mol, 620.4 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=CN(C)C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C24H38N2O7
reactant | triethylamine | 1.99 mol, 277.3 ml | C(C)N(CC)CC | C6H15N
reactant | diisobutylaluminum hydride | 2.06 mol, 1M, 2.06 L | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetic acid | 2.06 mol, 118 ml | C(C)(=O)O | C2H4O2
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | tetrahydrofuran | 12 L | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Di-tert-butyl (1S,2R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-methylidene-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate | 558.2 g, yield 99% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H33NO7
